US04000144
Analogously to the procedure described in Example 5, the use of 5-chloro-pentanecarboxylic acid ethyl ester and p-(1-adamantyl)-phenol as starting materials gives 5-[4-(1-adamantyl)-phenoxy]-pentanecarboxylic acid ethyl ester of boiling point 170°-180° C (0.05 mm).

reactant | 5-chloro-pentanecarboxylic acid ethyl ester | C(C)OC(=O)CCCCCCl | C8H15ClO2
reactant | p-(1-adamantyl)-phenol | C12(CC3CC(CC(C1)C3)C2)C2=CC=C(C=C2)O | C16H20O
product | 5-[4-(1-adamantyl)-phenoxy]-pentanecarboxylic acid ethyl ester | C(C)OC(=O)CCCCCOC1=CC=C(C=C1)C12CC3CC(CC(C1)C3)C2 | C24H34O3
